US05012007
Sodium borohydride (6.5 g, 0.17 mol) was added in portions over a 2 h period to a solution of isobutyrophenone (50 g, 0.34 mol) in ethanol (150 mL) under nitrogen. The reaction mixture was stirred at room temperature for 2 h. Ethanol was removed under reduced pressure. The reaction mixture was added to water (100 mL) and extracted with methylene chloride (3×100 mL). The organic extract was collected, dried (anhy. MgSO4), and concentrated to give 2-methyl-1-phenyl-1-propanol (48 g, 94% yield): bp 62° C. at 0.1 mm; 1H NMR (CDC13) 0.75 (d, J=7, 3 H), 0.96 (d, J=7, 3 H), 1.98 (m, 1 H), 2.90 (bs, 1 H), 4.25 (d, J=7, 1 H), and 7.31 (s, 5 H).

reactant | Sodium borohydride | 0.17 mol, 6.5 g | [BH4-].[Na+]
reactant | isobutyrophenone | 0.34 mol, 50 g | C(C(C)C)(=O)C1=CC=CC=C1 | C10H12O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-methyl-1-phenyl-1-propanol | 48 g, 94% yield | CC(C(O)C1=CC=CC=C1)C | C10H14O
